US07709509B2
120 mg Methanesulfonic acid 5-(3-chloro-4-cyano-phenoxymethyl)-2-(4-trifluoromethyl-phenyl)-thiazol-4-ylmethyl ester were dissolved in 5 ml methanol. 12.9 mg sodium methoxide were added and the mixture stirred at 50° C. for one hour. The reaction mixture was diluted by addition of 50 ml ethyl acetate, washed with one molar hydrochloric acid then dried over MgSO4. The solvent was removed in vacuo and the residue purified by RP-HPLC to provide 30 mg of 2-chloro-4-[4-methoxymethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-benzonitrile as lyophilisate.

reactant | Methanesulfonic acid 5-(3-chloro-4-cyano-phenoxymethyl)-2-(4-trifluoromethyl-phenyl)-thiazol-4-ylmethyl ester | 120 mg | ClC=1C=C(OCC2=C(N=C(S2)C2=CC=C(C=C2)C(F)(F)F)COS(=O)(=O)C)C=CC1C#N | C20H14ClF3N2O4S2
reactant | sodium methoxide | 12.9 mg | C[O-].[Na+]
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 5 ml | CO | CH4O
product | 2-chloro-4-[4-methoxymethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-benzonitrile | 30 mg | ClC1=C(C#N)C=CC(=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)COC | C20H14ClF3N2O2S
